US07230121B2
9-[4-(2-hydroxyethoxy)-phenyl]-thianthrenium hexafluorophosphate
A round bottom flask was charged with 0.2 g (0.438 mmol) of 9-(4-fluoro-phenyl)-thianthrenium hexafluorophosphate, and 5.0 g of ethylene glycol. The mixture was heated up to 120° C. and stirred until complete dissolution. 50 mg of potassium hydroxide were added to this solution; the solution was stirred for 1 hour and then poured into water. Dichloromethane was added and the organic layer separated, washed with water and dried (Na2SO4). After drying the solvent was removed under vacuum to give a white solid (0.2 g, 92%).

reactant | 9-(4-fluoro-phenyl)-thianthrenium hexafluorophosphate | 0.438 mmol, 0.2 g | F[P-](F)(F)(F)(F)F.FC1=CC=C(C=C1)C=1C=CC=C2[SH+]C=3C=CC=CC3SC12
reactant | ethylene glycol | 5.0 g | C(CO)O | C2H6O2
reactant | potassium hydroxide | 50 mg | [OH-].[K+]
reactant | water | O | H2O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 9-[4-(2-hydroxyethoxy)-phenyl]-thianthrenium hexafluorophosphate | 0.2 g, 92% | F[P-](F)(F)(F)(F)F.OCCOC1=CC=C(C=C1)C=1C=CC=C2[SH+]C=3C=CC=CC3SC12 | InChI=1S/C20H16O2S2.F6P/c21-12-13-22-15-10-8-14(9-11-15)16-4-3-7-19-20(16)24-18-6-2-1-5-17(18)23-19;1-7(2,3,4,5)6/h1-11,21H,12-13H2;/q;-1/p+1
